US07674825B2
VIII: Methyl 4-(4-bromo-2-formylbutyl)benzoate
At 0° C., 10.7 g (33.95 mmol) of 4-bromo-2-[4-(methoxycarbonyl)benzyl]butanoic acid from Ex. VII in 200 ml of THF are treated with 40.74 ml (40.74 mmol) of a 1M solution of borane in THF, and the mixture is stirred with warming to room temperature for 2 hours. Excess borane is destroyed by addition of water. The mixture is extracted with ether and the organic phase is then dried over magnesium sulfate and the solvent is distilled off under reduced pressure. 10.23 g (33.92 mmol) of the highly unstable methyl 4-[4-bromo-2-(hydroxymethyl)butyl]benzoate remain, and this residue is immediately dissolved in 100 ml of methylene chloride and added dropwise to a suspension of 10.98 g (50.92 mmol) of pyridinium chlorochromate in 200 ml of methylene chloride. After 3.5 hours, the solution is filtered through silica gel which is washed thoroughly with ether, and the solvent is distilled off. The crude product is purified by flash chromatography on silica gel (0.04-0.063 nm) using methylene chloride/methanol 3/1 as mobile phase.

reactant | 4-bromo-2-[4-(methoxycarbonyl)benzyl]butanoic acid | 33.95 mmol, 10.7 g | BrCCC(C(=O)O)CC1=CC=C(C=C1)C(=O)OC | C13H15BrO4
reactant | borane | B | BH3
reactant | pyridinium chlorochromate | 50.92 mmol, 10.98 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(4-bromo-2-formylbutyl)benzoate | BrCCC(CC1=CC=C(C(=O)OC)C=C1)C=O | C13H15BrO3
